datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(CC)C(C)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[O-:10]C(CC)/C(C)=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C(C)C(CC)[O:10]1 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C([H])C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C([H])[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O:10]([Na])C(C)C(C)C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(O)C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10][H].C[O+:21]=[C:20]([S][H])[S][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21]C)([S][H])[S][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C)C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S]C(C)C([H])[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])[H])CC)CC>>CN([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)[H])C>>CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)[H])[O-:10])C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])CCCCCC)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])CCCCCC)CCCCCC 10=20;20,21=21"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])[H])[H]>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])[H].[O-:21][H] 10=20;20,21=21"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21]CCCCCC)[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C(CC)C([H])C1O>>[O-:10]C(CC)C([H])C([C:20]([H])=[O:21])O 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
